US06049009
Preparation of (R,E)-4-phenylthio-3-buten-2-ol
(E)-4-phenylthio-3-buten-2-one (178 mg, 1.0 mmol), (S)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c] [1,3,2] oxazaborol (28 mg, 0.1 mmol) and MS4A (Nacalai Tesque Inc., 500 mg) were dried by a vacuum pump, followed by substituting with an argon gas. Dry toluene (5 ml) and dimethylsulfide (3.0 mmol) were added thereto and, after ice cooling, a solution of borane dimethylsulfide complex in toluene (1.07M, 0.65 ml, 0.7 mmol) was dropwise added. After stirring for two hours, an aqueous saturated ammonium chloride solution was added, followed by filtering through a cotton plug. The filtrate was washed with ethyl acetate and, after separating an aqueous layer, the organic layer was washed with 2NHCl, water, an aqueous saturated sodium hydrogen carbonate solution, water and saturated brine. After drying with anhydrous magnesium sulfate, the extract containing the titled compound as a main component was obtained by concentrating under a reduced pressure. The NMR chemical shifts of the titled compound are as follows.

reactant | (E)-4-phenylthio-3-buten-2-one | 1.0 mmol, 178 mg | C1(=CC=CC=C1)S/C=C/C(C)=O | C10H10OS
reactant | (S)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c] [1,3,2] oxazaborol | 0.1 mmol, 28 mg | C1(=CC=CC=C1)C1([C@H]2N(B(O1)C)CCC2)C2=CC=CC=C2 | C18H20BNO
reactant | dimethylsulfide | 3.0 mmol | CSC | C2H6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.7 mmol, 1.07M, 0.65 ml | C1(=CC=CC=C1)C | C7H8
product | (R,E)-4-phenylthio-3-buten-2-ol | C1(=CC=CC=C1)S/C=C/[C@@H](C)O | C10H12OS
